US06919371B2
Preparation of (2R)-N-[(2R)-2-hydroxy-2-(3-pyridinyl)ethyl]-6-nitro-3,4-dihydro-2H-chromene-2-carboxamide
(2R)-6-Nitro-3,4-dihydro-2H-chromene-2-carboxylic acid (4.1 g, 18 mmol) and (1R)-2-amino-1-(3-pyridinyl)ethanol (5.0 g, 24 mmol) (both described in U.S. Pat. No. 6,051,586) were suspended in CH2Cl2 and stirred vigorously. Triethylamine (9.2 mL, 66 mmol) was added followed by hydroxybenzotriazole (4.9 g, 36 mmol) and EDCl (6.9 g, 36 mmol), and the reaction was stirred overnight. After 18 hours, TLC showed no remaining acid starting material, so the reaction was partitioned between water and CH2Cl2 and the organic layer was washed 3×100 mL of water. The organic layer was washed with 1N HCl, which removed the product into the aqueous layer. This aqueous layer was washed with CH2Cl2 and the organic was discarded. The aqueous solution was then basified and became cloudy with a white precipitate. The basified mixture was extracted with 3×100 mL of CH2Cl2.

reactant | (2R)-6-Nitro-3,4-dihydro-2H-chromene-2-carboxylic acid | 18 mmol, 4.1 g | [N+](=O)([O-])C=1C=C2CC[C@@H](OC2=CC1)C(=O)O | C10H9NO5
reactant | (1R)-2-amino-1-(3-pyridinyl)ethanol | 24 mmol, 5.0 g | NC[C@H](O)C=1C=NC=CC1 | C7H10N2O
reactant | Triethylamine | 66 mmol, 9.2 mL | C(C)N(CC)CC | C6H15N
reactant | hydroxybenzotriazole | 36 mmol, 4.9 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | EDCl | 36 mmol, 6.9 g | CCN=C=NCCCN(C)C.Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2R)-N-[(2R)-2-hydroxy-2-(3-pyridinyl)ethyl]-6-nitro-3,4-dihydro-2H-chromene-2-carboxamide | O[C@@H](CNC(=O)[C@@H]1OC2=CC=C(C=C2CC1)[N+](=O)[O-])C=1C=NC=CC1 | C17H17N3O5
